US06262070B1
5-Bromo-8-(tert-butyldimethylsilanyloxy)-2-trifluoromethylquinoline
A solution of 8-(tert-butyldimethylsilanyloxy)-2-trifluoromethylquinoline (17.5 g) in dichloromethane (100 ml) was treated with N-bromosuccinimide (10.5 g) at 15° C. The mixture was stirred at 20° C. for 25 minutes, washed with 1% sodium sulfite solution (100 ml), and water (50 ml). The organic layer was separated, dried over magnesium sulfate, filtered and the solvent removed in vacuo to give the product (21.4 g) as a dark oil.

reactant | 8-(tert-butyldimethylsilanyloxy)-2-trifluoromethylquinoline | 17.5 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC=C2C=CC(=NC12)C(F)(F)F | C16H20F3NOSi
reactant | N-bromosuccinimide | 10.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-Bromo-8-(tert-butyldimethylsilanyloxy)-2-trifluoromethylquinoline | 21.4 g | BrC1=C2C=CC(=NC2=C(C=C1)O[Si](C)(C)C(C)(C)C)C(F)(F)F | C16H19BrF3NOSi
